US07842696B2
To a solution of 1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-(4-thiophen-3-yl-benzylamino)-ethanone (50 mg, 0.09 mmol) in ethereal.HCl (5 ml) was stirred at room temperature for 1 hr. The reaction mixture was then concentrated and the resulting residue was washed with ether to afford 36 mg (67.2%) of 1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-(4-thiophen-3-yl-benzylamino)-ethanone hydrochloride salt. LCMS Purity: 96.34%. 1H NMR (DMSO-d6): δ 9.2 (s, 1H), 8.0-7.9 (m, 2H), 7.85-7.74 (m, 2H), 7.7-7.5 (m, 6H), 4.2-4.0 (m, 4H), 3.8-3.4 (m, 5H), 3.3-3.0 (m, 3H).

reactant | 1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-(4-thiophen-3-yl-benzylamino)-ethanone | 0.09 mmol, 50 mg | FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNCC2=CC=C(C=C2)C2=CSC=C2)=O)C1)C(F)(F)F | C25H23F4N3O2S
reactant | HCl | 5 ml | Cl | ClH
product | 1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-(4-thiophen-3-yl-benzylamino)-ethanone hydrochloride salt | 36 mg, 67.2% | Cl.FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNCC2=CC=C(C=C2)C2=CSC=C2)=O)C1)C(F)(F)F | InChI=1S/C25H23F4N3O2S.ClH/c26-20-5-6-22(25(27,28)29)21(13-20)24(34)32-10-8-31(9-11-32)23(33)15-30-14-17-1-3-18(4-2-17)19-7-12-35-16-19;/h1-7,12-13,16,30H,8-11,14-15H2;1H
